US08420695B2
Step 4: [4-(1-Hydroxy-1-methylethyl)phenyl]acetaldehyde
A biphasic mixture of 3-[4-(1-hydroxy-1-methylethyl)phenyl]propane-1,2-diol (5.44 g, 25.9 mmol) in water (85 mL) and diethyl ether (170 mL) was charged with sodium periodate (11.07 g, 51.7 mmol) and stirred vigorously for two hours. The reaction mixture was then partitioned between diethyl ether (50 mL) and saturated aqueous sodium thiosulfate (50 mL), and the layers were separated. The aqueous layer was extracted with diethyl ether (2×100 mL), and the combined organic layers were washed with brine (25 mL), dried over sodium sulfate, filtered, and concentrated. To remove water left over, the concentrated material was dissolved in dichloromethane (70 mL), washed with brine (20 mL), dried over sodium sulfate, filtered, and concentrated to yield the title compound.

reactant | 3-[4-(1-hydroxy-1-methylethyl)phenyl]propane-1,2-diol | 25.9 mmol, 5.44 g | OC(C)(C)C1=CC=C(C=C1)CC(CO)O | C12H18O3
reactant | sodium periodate | 51.7 mmol, 11.07 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | water | 85 mL | O | H2O
solvent | diethyl ether | 170 mL | C(C)OCC | C4H10O
product | [4-(1-Hydroxy-1-methylethyl)phenyl]acetaldehyde | OC(C)(C)C1=CC=C(C=C1)CC=O | C11H14O2
